Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
flu shot
 
Attending: ___.
 
Chief Complaint:
pulmonary embolism
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of
obesity, social smoking, opiate abuse, traumatic subarachnoid
hemorrhage ___, and hypertension with a family history notable
for a brother diagnosed with DVT in his ___ who presented with
1.5 weeks of progressive shortness of breath. She was found to
have extensive pulmonary emboli and was transferred to ___. 

Ms. ___ states that she began to have shortness of breath
1.5 weeks ago. She initially thought was having anxiety attacks
because she was short of breath, diaphoretic, and had an
impending sense of doom. She had a noticeable decrease in her
exertional tolerance. A week ago, she states that she could walk
200 feet walking her dog around etc. A few days ago she couldn't
even walk around her house without stopping to lean against the
wall to catch her breath. She went to ___ with her
daughter and her daughter noticed her shortness of breath and
realized her mother was at the point where she was almost
crawling up the stairs. She had some chest tightness. She
endorses swelling in her left leg. 

ROS otherwise negative. 

 
Past Medical History:
Scoliosis
Left hip labral tear
Left knee surgery
Obesity
Hypertension
Traumatic subarachnoid ___

 
Social History:
___
Family History:
Patient states that her father may have had clots in his legs
because they were often swollen, but he has never been 
diagnosed.
She states that her brother has clots in his legs and states 
that
her brother was treated with heparin and discussing an IVC 
filter
at one point. He was in his late ___ when he was diagnosed. 

 
Physical Exam:
ADMISSION EXAM:
==============
VITAL SIGNS - BP 149/88  mmHg, HR 102 BPM, RR 16 , O2-sat 93 5L
GENERAL - Eyes closed, appears exhausted, but not in respiratory
distress. 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear,
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
No xanthalesma. 
NECK - supple, no thyromegaly, no JVD, no carotid bruits 
LUNGS - CTAB, no w/r/r
HEART - PMI located in ___ intercostal space, midclavicular 
line,
RRR, normal S1, S2. No m/r/g.
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding. 
EXTREMITIES - venous stasis color changes, trace edema, 2+
peripheral pulses (radials, DPs)
NEURO - awake, A&Ox3, CNs II-XII grossly intact, moving all
extremities symmetrically. 

DISCHARGE EXAM
=================
24 HR Data (last updated ___ @ 515)
    Temp: 98.1 (Tm 98.3), BP: 141/75 (122-169/73-92), HR: 76
(71-81), RR: 18 (___), O2 sat: 98% (86-86%-98), O2 delivery: 
RA
(0.5L-2l)    
GENERAL: Tired appearing but otherwise NAD  
HEENT: NC/AT. PERRL. EOMI.  
CARDIAC: RRR no m/r/g. No RV heave. 
LUNGS: CTAB no r/r/w
ABDOMEN: Soft, NT, ND, +BS  
EXTREMITIES: Trace edema, chronic venous stasis change L>R.
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: A&Ox3, appropriate mood and affect. Grossly intact
 
 
Pertinent Results:
ADMISSION LABS
___ 11:43PM   LACTATE-1.5
___ 10:20PM   GLUCOSE-109* UREA N-16 CREAT-0.9 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-25 ANION GAP-11
___ 10:20PM   estGFR-Using this
___ 10:20PM   cTropnT-0.26*
___ 10:20PM   proBNP-___*
___ 10:20PM   CALCIUM-9.7 PHOSPHATE-4.0 MAGNESIUM-1.9
___ 10:20PM   WBC-9.4 RBC-4.36 HGB-12.7 HCT-40.4 MCV-93 
MCH-29.1 MCHC-31.4* RDW-14.8 RDWSD-49.9*
___ 10:20PM   NEUTS-64.2 ___ MONOS-6.1 EOS-4.4 
BASOS-0.5 IM ___ AbsNeut-6.05 AbsLymp-2.30 AbsMono-0.57 
AbsEos-0.41 AbsBaso-0.05
___ 10:20PM   PLT COUNT-171
___ 10:20PM   ___ PTT-150* ___

IMAGING 

CXR (___)
FINDINGS:  
Heart size is borderline enlarged.  The mediastinal and hilar 
contours are 
normal. The pulmonary vasculature is normal. Lungs are clear.  
No pleural 
effusion or pneumothorax is seen. There are no acute osseous 
abnormalities. 
IMPRESSION:  
No acute cardiopulmonary abnormality.  Known massive bilateral 
pulmonary 
emboli are better assessed on same day chest CT. 
  
EKG ___: Sinus tachycardia at 107, narrow complex, normal
intervals, q waves in III and aVF. 

___ (___)
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins. 
2. Left-sided medial popliteal fossa (___) cyst measuring 3.3 
x 0.8 x 1.8 cm. 

CTPE OSH: Multiple pulmonary emboli involving most if not all
segments of the lung. The main pulmonary artery is patent. There
are emboli extending from the upper lobe to lower lobe pulmonary
arteries bilaterally, right greater than left, extending into
essentially all segmental vessels, or if not present in the
proximal segmental artery to subsegmental branches. there is no
apparent infarct.

TTE (___)
CONCLUSION: The left atrial volume index is normal. There is no 
evidence for an atrial septal defect
by 2D/color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular
systolic function. The visually estimated left ventricular 
ejection fraction is >=55%. Left ventricular
cardiac index is low normal (2.0-2.5 L/min/m2). There is no 
resting left ventricular outflow tract
gradient. No ventricular septal defect is seen. Mildly dilated 
right ventricular cavity with mild to
moderately depressed free wall motion. Tricuspid annular plane 
systolic excursion (TAPSE) is
depressed. There is abnormal interventricular septal motion. The 
aortic sinus diameter is normal for
gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation.
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally
normal. There is mild [1+] tricuspid regurgitation. There is 
mild pulmonary artery systolic hypertension.
There is no pericardial effusion.
IMPRESSION: Mildly dilated right ventricle with mild to moderate 
hypokinesis. Mild pulmonary
hypertension. Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global systolic function.

MICRO
___ 11:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

DISCHARGE LABS:
================
___ 06:13AM BLOOD WBC-5.6 RBC-4.06 Hgb-11.8 Hct-38.5 MCV-95 
MCH-29.1 MCHC-30.6* RDW-14.8 RDWSD-51.8* Plt ___
___ 06:13AM BLOOD Plt ___
___ 06:13AM BLOOD ___ PTT-30.8 ___
___ 06:13AM BLOOD Glucose-99 UreaN-17 Creat-0.8 Na-142 
K-5.0 Cl-101 HCO3-28 AnGap-13
___ 06:13AM BLOOD ALT-28 AST-36 LD(LDH)-306* AlkPhos-148* 
TotBili-<0.2
___ 06:13AM BLOOD Albumin-3.7 Calcium-9.2 Phos-4.1 Mg-2.___ year old female with a past medical history of a traumatic 
subarachnoid hemorrhage, HTN, hypothyroidism, and anxiety who 
presented as a transfer for intermediate-high risk PE now 
transitioned to Apixaban.

ACUTE ISSUES: 
============= 
# Intermediate-High Risk Bilateral Pulmonary Embolism: 
CT at OSH with bilateral pulmonary embolisms with extensive clot 
burden and mild right ventricular strain. Patient is a social 
smoker and is obese but otherwise has no significant risk 
factors for clotting. Of note her brother does have a history of 
DVTs. Formal echocardiogram showed mildly dilated right 
ventricle with mild to moderate hypokinesis. Mild pulmonary 
hypertension. Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global systolic function. Lower 
extremity ultrasounds of the legs did not show evidence of DVT. 
She was placed on a heparin drip and transitioned to apixaban. 
She will have a hypercoagulable workup as an outpatient. Patient 
developed new O2 requirement this admission and was ultimately 
discharged off oxygen given ambulatory sats 88-96% without DOE.

#Hypertension: ___ have been on HCTZ in the past. Intermittently 
elevated BP reading to 150s-160s in-house though has not been 
persistently hypertensive. Continued hydrochlorothiazide 12.5 mg 
daily.

CHRONIC ISSUES:
===============
#Hypothyroidism: Continued home levothyroxine

#Opioid Use Disorder: Continued suboxone 1.5 tab daily

TRANSITIONAL ISSUES:
====================
[ ] Continue hypercoaguable workup at ___ clinic
[ ] Follow up of ___ cyst
[ ] Apixaban 10 mg BID until ___, then will transition to 
apixaban 5 mg BID on ___
[ ] Age appropriate cancer screening

#CONTACT/HCP: 
Name: ___
Relationship: daughter
Phone Number: ___
#CODE: Full, confirmed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Buprenorphine-Naloxone Tablet (8mg-2mg) 1.5 TAB SL DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Amphetamine-Dextroamphetamine 15 mg PO DAILY 
5. Escitalopram Oxalate 20 mg PO DAILY 
6. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Amphetamine-Dextroamphetamine 15 mg PO DAILY  
4.  Buprenorphine-Naloxone Tablet (8mg-2mg) 1.5 TAB SL DAILY  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Submassive pulmonary embolism

Secondary Diagnoses:
Hypothyroidism
Hypertension
Opioid Use Disorder
ADHD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

WHY WAS I ADMITTED?
You were admitted because you were found to have blood clots in 
your lungs.

WHAT WAS DONE WHILE I WAS HERE?
You were started on a blood thinner. 

WHAT SHOULD I DO NOW?
- You should take all of your medications as instructed. 
- Please take apixaban 10mg twice a day until ___. Starting 
on ___ please take apixaban 5mg twice a day. You will need 
to continue taking apixaban 5mg twice a day for at least 6 
months. Please do not stop taking apixaban unless you talk to 
your doctor.
- You should go to your doctor's appointments as below. 

We wish you the best!
-Your ___ Care Team 
 
Followup Instructions:
___